### PR TITLE
refactor: replace the bespoke exception postcondition types with tuples

### PR DESCRIPTION
**Pull request by sgraf812**
This PR replaces the exception postcondition types `EPost.Nil` and `EPost.Cons` with products. An exception postcondition stack is now `(ε₁ → Pred) × (ε₂ → Pred) × EStack⟨⟩`, so the `Prod` API applies to it. The base monads carry bare postconditions: `Except ε` uses `ε → Prop`, and `Option` uses `Unit → Prop`. The notation `EStack⟨A, B⟩` writes a stack type, and `estack⟨e₁, e₂⟩` writes a stack value. Both print back as written. `vcgen` splits `⊥` and `⊤` exception postconditions with the same cached backward rules as the other lattice connectives.

### CODE REVIEW

File: tests/elab/vcgenForallRhs.lean [hunk 1]
```diff
@@ -79,15 +79,15 @@ axiom wpS_add : ∀ {l r} {Φ : ValueS → Nat → Prop} {s : Nat},
...
+instance instWP_LangS : WP LangS ValueS (Nat → Prop) Unit where
   wpTrans l := ⟨fun Φ _ => wpS l Φ⟩
   wp_trans_monotone x := by
     simp [PredTrans.monotone, Lean.Order.PartialOrder.rel]
     intros; apply wpS_mono <;> trivial
 
 @[spec]
 theorem spec_nat_s {n : Nat} {Φ : ValueS → Nat → Prop} :
-    ⦃ Φ ⟨.nat n, .nat⟩ ⦄ (LangS.nat n) ⦃ Φ; epost⟨⟩⦄ := by
+    ⦃ Φ ⟨.nat n, .nat⟩ ⦄ (LangS.nat n) ⦃ Φ; ()⦄ := by
```
Comment (sgraf812) [inline tests/elab/vcgenForallRhs.lean]:
```suggestion
    ⦃ Φ ⟨.nat n, .nat⟩ ⦄ (LangS.nat n) ⦃ Φ ⦄ := by
```

File: src/Lean/Elab/Tactic/VCGen/ExceptPost.lean [hunk 2]
```diff
@@ -0,0 +1,119 @@
...
+`bot_apply` (for each excess argument).
+
+The proof term is built directly with `mkApp`/`mkConst` and instances extracted from the existing
+goal, avoiding `mkAppM`/instance synthesis (which is both expensive and unable to unify `max`-of-
+universe-variable instance levels in the abstract-monad setting).
+
+`fst`/`args` come from `rhs.withApp`, where `rhs = @Prod.fst eh et ⊥ x₁ … xₙ`, and `target`
+is the full `pre ⊑ rhs` entailment. Returns the rewritten goal, or `none` if `args[2]` is not `⊥`
+or the lattice instances are not in the expected shape (the caller then falls through). -/
+public def replaceExceptPostFstBot? (goal : MVarId) (target fst : Expr) (args : Array Expr) :
```
Comment (sgraf812) [inline src/Lean/Elab/Tactic/VCGen/ExceptPost.lean]: This function lives in SymM. can't you use Sym.simp to great effect here?

**Comment by sgraf812** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/b1d2f49faac51a0e50eb215b8ff39e6921fcefa1?reference=01fe11016b49e852a896f62b1590f1a763c7b145) for b1d2f49faac51a0e50eb215b8ff39e6921fcefa1 against 01fe11016b49e852a896f62b1590f1a763c7b145 are in. No significant results found. @sgraf812

- 🟥 `build//instructions`: **+1.2G** (**+0.01%**)

**Small changes (7✅, 5🟥)**

- 🟥 `build/module/Init.Internal.Order.Basic//instructions`: **+289.4M** (**+5.52%**) (reduced significance based on *//lines)
- 🟥 `build/module/Lean.Elab.Tactic.VCGen.Entails//instructions`: **+315.9M** (**+7.04%**) (reduced significance based on *//lines)
- 🟥 `build/module/Lean.Elab.Tactic.VCGen.RuleCache//instructions`: **+527.3M** (**+19.79%**) (reduced significance based on *//lines)
- 🟥 `build/module/Std.Internal.Order.PredTrans//instructions`: **+166.9M** (**+11.68%**) (reduced significance based on *//lines)
- 🟥 `build/module/Std.Internal.Order.PreservesSup//instructions`: **+438.1M** (**+33.71%**) (reduced significance based on *//lines)
- ✅ `build/module/Std.WP.Monad.Instances//instructions`: **-132.4M** (**-5.09%**) (reduced significance based on *//lines)
- ✅ `vcgen/GetThrowSet/200/kernel//wall-clock`: **-4ms** (**-8.21%**)
- ✅ `vcgen/GetThrowSet/500/kernel//wall-clock`: **-19ms** (**-8.77%**)
- ✅ `vcgen/GetThrowSet/500/vcgen//wall-clock`: **-5ms** (**-6.77%**)
- ✅ `vcgen/GetThrowSet/800/kernel//wall-clock`: **-45ms** (**-8.84%**)
- ✅ `vcgen/GetThrowSet/800/vcgen//wall-clock`: **-11ms** (**-8.44%**)
- ✅ `vcgen/GetThrowSetGrind/100/vcgen//wall-clock`: **-6ms** (**-6.30%**)

File: src/Std/WP/EStack.lean [hunk 3]
```diff
@@ -0,0 +1,60 @@
...
+public import Std.WP.Assertion
+@[expose] public section
+
+set_option linter.missingDocs true
+
+/-!
+# Exception Postcondition Stack Notation
+
+A monad transformer stack carries one exception postcondition for each transformer that throws,
+and `EStack⟨⟩` closes the stack. `EStack⟨Nat → σ → Prop, String → σ → Prop⟩` is the stack of
```
Comment (sgraf812) [inline src/Std/WP/EStack.lean]: I don't know what "closes the stack" means. Please rewrite all comments in this module in /simple-english and make them no longer than they currently are.

File: tests/elab/vcgenSchematicEStack.lean [hunk 4]
```diff
@@ -0,0 +1,52 @@
+import Std.Tactic.Do
```
Comment (sgraf812) [inline tests/elab/vcgenSchematicEStack.lean]: undo the rename of this file

**Comment by sgraf812** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/0cbce06e071eb888fcc4681d074bcb78bb2746b9?reference=01fe11016b49e852a896f62b1590f1a763c7b145) for 0cbce06e071eb888fcc4681d074bcb78bb2746b9 against 01fe11016b49e852a896f62b1590f1a763c7b145 are in. No significant results found. @sgraf812

- ✅ `build//instructions`: **-2.4G** (**-0.02%**)

**Small changes (11✅, 5🟥)**

- 🟥 `build/module/Init.Internal.Order.Basic//instructions`: **+289.6M** (**+5.53%**) (reduced significance based on *//lines)
- ✅ `build/module/Lean.Elab.Tactic.VCGen.Driver//instructions`: **-39.6M** (**-0.97%**)
- ✅ `build/module/Lean.Elab.Tactic.VCGen.Entails//instructions`: **-189.9M** (**-4.23%**) (reduced significance based on *//lines)
- ✅ `build/module/Lean.Elab.Tactic.VCGen.Frontend//instructions`: **-83.7M** (**-0.71%**)
- 🟥 `build/module/Lean.Elab.Tactic.VCGen.LatticeOp//instructions`: **+104.7M** (**+3.93%**) (reduced significance based on *//lines)
- 🟥 `build/module/Lean.Elab.Tactic.VCGen.Reduce//instructions`: **+50.8M** (**+4.18%**)
- ✅ `build/module/Lean.Elab.Tactic.VCGen//instructions`: **-46.8M** (**-4.45%**) (reduced significance based on *//lines)
- 🟥 `build/module/Std.Internal.Order.PredTrans//instructions`: **+166.0M** (**+11.62%**) (reduced significance based on *//lines)
- 🟥 `build/module/Std.Internal.Order.PreservesSup//instructions`: **+503.5M** (**+38.74%**) (reduced significance based on *//lines)
- ✅ `build/module/Std.WP.Monad.Instances//instructions`: **-135.0M** (**-5.19%**) (reduced significance based on *//lines)
- ✅ `vcgen/GetThrowSet/200/kernel//wall-clock`: **-4ms** (**-8.07%**)
- ✅ `vcgen/GetThrowSet/500/kernel//wall-clock`: **-16ms** (**-7.42%**)
- ✅ `vcgen/GetThrowSet/500/vcgen//wall-clock`: **-5ms** (**-5.67%**)
- ✅ `vcgen/GetThrowSet/800/kernel//wall-clock`: **-33ms** (**-6.53%**)
- ✅ `vcgen/GetThrowSet/800/vcgen//wall-clock`: **-10ms** (**-7.38%**)
- ✅ `vcgen/GetThrowSetGrind/100/vcgen//wall-clock`: **-6ms** (**-6.14%**)
